US05006660
Synthesis of 2-(2-hydroxyethoxy)-1-acetylaminobenzene (Compound No. 119)
440 mg of sodium hydride solution (concentration 40%) was added portionwise to 30 ml of ethylene glycol. After abating of the froth occurred, 50 mg of cuprous chloride, 75 mg of 8-hydroxyquinoline and 1.07 g of 2-bromo-1-acetylamino-benzene were added to the solution and the mixture was heated at 70° to 80° C. for 50 minutes. The reaction mixture was treated in a usual manner, and then crystallization was effected from a solvent mixture of n-hexane and ethyl acetate to give 720 mg of the desired compound. Yield: 74%, melting point: 89°-91° C.

reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | 8-hydroxyquinoline | 75 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 2-bromo-1-acetylamino-benzene | 1.07 g | BrC1=C(C=CC=C1)NC(C)=O | C8H8BrNO
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 2-(2-hydroxyethoxy)-1-acetylaminobenzene | 720 mg, Yield: 74% | OCCOC1=C(C=CC=C1)NC(C)=O | C10H13NO3
